US07572820B2
C. 5-Bromo-4-chloro-2-ethyl-1H-benzimidazole
4-Bromo-3-chloro-1,2-benzenediamine (0.17 g, 0.766 mmol), propionic acid (0.17 g, 2.298 mmol), and 4 N HCl (1.724 ml, 6.894 mmol) were combined and heated to 140° C. for 3 h. Treatment with 1N NaOH was followed by extraction with EtOAc (×3), and washing with brine. The dried (Na2SO4) organic portions were filtered, concentrated, and chromatographed (SiO2, MeOH/CH2Cl2) to obtain 0.177 g of the title compound: 1HNMR (400 MHz, CDCl3) δ 9.50 (broad s, 1H), 7.43 (d, J=8.31 Hz, 1H), 7.35 (broad s, 1H), 2.96 (q, J=7.5 Hz, 2H), 1.43 (t, J=7.5 Hz, 3H); MS (ESI) m/z 261 (M+1).

reactant | 4-Bromo-3-chloro-1,2-benzenediamine | 0.766 mmol, 0.17 g | BrC=1C(=C(C(=CC1)N)N)Cl | C6H6BrClN2
reactant | propionic acid | 2.298 mmol, 0.17 g | C(CC)(=O)O | C3H6O2
reactant | HCl | 6.894 mmol, 4 N, 1.724 ml | Cl | ClH
product | 5-Bromo-4-chloro-2-ethyl-1H-benzimidazole | 0.177 g | BrC1=C(C2=C(NC(=N2)CC)C=C1)Cl | C9H8BrClN2
